US08404719B2
3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[(1S)-2-hydroxy-1-phenylethyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.359 g, 1.5 mmol) in anhydrous dichloromethane (40 mL) was added (R)-octahydropyrrolo[1,2-α]pyrazine (0.189 g, 1.5 mmol) in dichloromethane (4 mL) slowly over 10 min at room temperature. Then sodium carbonate (0.48 g, 4.52 mmol) was added. The mixture was stirred at room temperature overnight. Then (S)-2-amino-2-phenylethanol (0.274 g, 2.0 mmol) in N,N-dimethylformamide (10 mL) was added. The mixture was stirred at room temperature for 4 days. Then methanol (5 mL) was added, the mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (methanol/dichloromethane=1:12) to give the titled compound: 1H NMR (500 MHz, DMSO-d6) δ ppm 1.30 (m, 1H), 1.60-2.10 (m, 6H), 2.80-3.10 (m, 4H), 3.40 (m, 3H), 4.25 (m, 1H), 4.40-4.60 (m, 1H), 4.82 (t, 1H, J=4 Hz), 7.10 (m, 5H), 7.44 (m, 2H), 7.60 (s, 1H), 7.65 (m, 1H), 8.30 (d, 1H, J=7 Hz); MS (ESI) m/z 430 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.5 mmol, 0.359 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 1.5 mmol, 0.189 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
reactant | sodium carbonate | 4.52 mmol, 0.48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-2-amino-2-phenylethanol | 2.0 mmol, 0.274 g | N[C@H](CO)C1=CC=CC=C1 | C8H11NO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
product | 3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]-N-[(1S)-2-hydroxy-1-phenylethyl]benzenesulfonamide | C1[C@@H]2N(CCN1C(=O)C=1C=C(C=CC1)S(=O)(=O)N[C@H](CO)C1=CC=CC=C1)CCC2 | C22H27N3O4S
